US04013692
A mixture of 5.0 g. of ethyl 3-phenyl-7-benzofuranacetate, 2.6 g. of hydroxylamine hydrochloride and 6.3 g. of sodium methoxide in 55 ml. of methanol is heated overnight at reflux. Water and dilute hydrochloric acid are added. The precipitate which forms is collected and recrystallized from ethanol to give 3-phenyl-7-benzofuranacethydroxamic acid, m.p. 163° (dec).

reactant | ethyl 3-phenyl-7-benzofuranacetate | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)OCC | C18H16O3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | methanol | CO | CH4O
product | 3-phenyl-7-benzofuranacethydroxamic acid | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)NO | C16H13NO3
